* C:\Users\scott\Documents\GitHub\memtest\models\advanced\voltage-clamp.asc
Rf N002 N001 500Meg
V1 Vcc 0 9
XAMP1 N006 N001 Vcc -Vcc N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V2 0 -Vcc 9
Vclamp N006 0 PULSE(-75m -65m 0 1f 1f .025 .05 999)
Ra N001 N007 15Meg
Cm N007 0 150p
Rm N007 N008 500Meg
Cp N001 0 0
R1 N003 Unfiltered 50
Rs 0 N001 1G
Cf N002 N001 0
L1 N003 N004 2m
C1 N004 0 1.3µ
L2 N004 Filtered 4.3m
C2 N003 0 270n
C3 Filtered 0 3.6µ
V3 N008 0 -70m
XAMP2 N005 Unfiltered Vcc -Vcc Unfiltered level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R3 N005 N002 1Meg
* square pulses +/- 5 mV from rest\nsimulating a membrane test
* Pipette\nCapacitance
* Access\nResistance
* Membrane\nResistance
* Membrane\nCapacitance
* Power Supply
* Feedback
* Voltage-Clamped Neuron in Whole-Cell Configuration
.tran 0 .15 .045 .000001
* Seal\nResistance
* 5th order Bessel lowpass filter
* Resting\nPotential
.lib UniversalOpamps2.sub
.backanno
.end
