* C:\Users\scott\Documents\GitHub\memtest\models\single-electrode-memtest\memtest.asc
Rf Vo N001 500Meg
V1 Vcc 0 9
XU1 Vc N001 Vcc -Vcc Vo level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V2 0 -Vcc 9
V4 Vc 0 PULSE(-75m -65m 0 1f 1f .025 .05 999)
Ra N001 Vm 15Meg
Cm Vm 0 150p
Rm Vm N002 500Meg
V3 N002 0 -70m Rser=99999G
* -65 to -75 mV\nsteps at 20 Hz
* Power Supply
* Ideal Voltage-Clamped Neuron\nin Whole-Cell Configuration
.tran 0 .15 .045 .0000001
.lib UniversalOpamps2.sub
.backanno
.end
