* C:\Users\scott\Documents\GitHub\memtest\models\single-electrode-memtest\memtest2.asc
Rf Vo N001 500Meg
V1 Vcc 0 9
XU1 Vc N001 Vcc -Vcc Vo level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V2 0 -Vcc 9
Vsquare NC_01 0 PULSE(-75m -65m 0 1f 1f .025 .05 999)
Ra N001 Vm 15Meg
Cm Vm 0 150p
Rm Vm N002 500Meg
V3 N002 0 -70m Rser=99999G
Vramp Vc 0 PULSE(-70m -80m .5 50ms 50ms 0 10 999)
* 10 mV 20 Hz\nsquare pulse
* Power Supply
* Ideal Voltage-Clamped Neuron\nin Whole-Cell Configuration
.tran 0 .7 .4 .0000001
* 10mV/50ms\nramps
.lib UniversalOpamps2.sub
.backanno
.end
